US09328118B2
Triethylamine (0.35 mL) was added to a suspension of 2-chloro-7-(2-methoxyethyl)-4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7H-pyrrolo[2,3-d]pyrimidine monohydrochloride (440 mg) in dichloroethane (8 mL) at room temperature, and the mixture was stirred at the same temperature for 15 minutes. After the reaction mixture was ice-cooled, acetic acid (0.24 mL), sodium triacetoxyborohydride (359 mg), and acetaldehyde (0.14 mL) were added thereto, and the mixture was stirred for 1 hour under ice-cooling. After a saturated aqueous NaHCO3 solution was added to the reaction mixture, extraction thereof was performed using CHCl3, and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (CHCl3), whereby 2-chloro-4-{4-[2-(1-ethylpiperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(2-methoxyethyl)-7H-pyrrolo[2,3-d]pyrimidine (431 mg) was obtained as a colorless oil.

reactant | 2-chloro-7-(2-methoxyethyl)-4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7H-pyrrolo[2,3-d]pyrimidine monohydrochloride | 440 mg | Cl.ClC=1N=C(C2=C(N1)N(C=C2)CCOC)C2=CC(=C(C=C2)OCCC2CCNCC2)C(F)(F)F
reactant | sodium triacetoxyborohydride | 359 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 0.14 mL | C(C)=O | C2H4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.24 mL | C(C)(=O)O | C2H4O2
solvent | Triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
product | 2-chloro-4-{4-[2-(1-ethylpiperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(2-methoxyethyl)-7H-pyrrolo[2,3-d]pyrimidine | 431 mg | ClC=1N=C(C2=C(N1)N(C=C2)CCOC)C2=CC(=C(C=C2)OCCC2CCN(CC2)CC)C(F)(F)F | C25H30ClF3N4O2
